US07622502B2
Step 2: (5R)-5,6-dihydroxyhexyl 4-nitrobenzoate
To a solution of AD-mix-beta (34 g) in t-BuOH—H2O (1:1, 0.077 M) at 0° C., was added hex-5-en-1-yl 4-nitrobenzoate (6 g, 24.07 mmol). The reaction was stirred at 0° C. overnight. The reaction mixture was diluted with 250 mL of EA, quenched by addition of 10 g of sodium metabisulfite and stirred 30 min at 0° C. The mixture was allowed to stir at rt for 1 h then was extracted 3 times with EtOAc, washed with brine, dried over Na2SO4, filtered and evaporated. The compound was recrystallized with ether and stirred in the cold room overnight for twice to afford 3.3 g of the titled compound as a white solid (greater than 99% in e.e. by Mosher derivatives analysis). 1H NMR (500 MHz, acetone-d6): δ 8.36 (d, 2H), 8.27 (d, 2H), 4.38 (t, 2H), 3.62-3.54 (m, 3H), 3.49-3.45 (m, 1H), 3.41-3.35 (m, 1H), 1.87-1.77 (m, 2H), 1.69-1.62 (m, 1H), 1.59-1.49 (m, 2H), 1.46-1.40 (m, 1H).

reactant | AD-mix-beta | 34 g | CC[C@H]1CN2CC[C@H]1C[C@@H]2[C@H](C3=C4C=C(C=CC4=NC=C3)OC)OC5=NN=C(C6=CC=CC=C65)O[C@H]([C@H]7C[C@@H]8CCN7C[C@@H]8CC)C9=C1C=C(C=CC1=NC=C9)OC | C48H54N6O4
reactant | hex-5-en-1-yl 4-nitrobenzoate | 24.07 mmol, 6 g | [N+](=O)([O-])C1=CC=C(C(=O)OCCCCC=C)C=C1 | C13H15NO4
reactant | t-BuOH—H2O | 0.077 M | C(C)(C)(C)O.O
solvent | EA | 250 mL | CC(OCC)=O | C4H8O2
product | (5R)-5,6-dihydroxyhexyl 4-nitrobenzoate | 3.3 g, greater than 99% | [N+](=O)([O-])C1=CC=C(C(=O)OCCCC[C@H](CO)O)C=C1 | C13H17NO6
